US05739328
21 g (0.25 mol) of N-cyanoguanidine, 3.4 g (0.025 mol) of anhydrous zinc chloride and 160 g (1.25 mol) of methyl trifluoroacetate are initially introduced into 400 ml of methanol, the mixture is warmed to 50° C. and 50 g (0.27 mol) of 30% strength sodium methoxide solution are pumped in in the course of 10 hours. The solvent is then largely removed, and the residue is washed with 250 ml of water and 250 ml of dilute hydrochloric acid and dried at 60° C./20 mbar. 43.2 g (0.22 mol, 89%) of 2-amino-4-trifluoromethyl-6-methoxy-1,3,5-triazine are obtained in the form of a colorless powder (HPLC: >99% by weight) M.p.: 161°-163.5° C.

reactant | N-cyanoguanidine | 0.25 mol, 21 g | C(#N)NC(=N)N | C2H4N4
reactant | methyl trifluoroacetate | 1.25 mol, 160 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | sodium methoxide | C[O-].[Na+]
catalyst | zinc chloride | 0.025 mol, 3.4 g | [Cl-].[Zn+2].[Cl-]
solvent | methanol | 400 ml | CO | CH4O
product | 2-amino-4-trifluoromethyl-6-methoxy-1,3,5-triazine | 0.22 mol, 43.2 g, 89% | NC1=NC(=NC(=N1)C(F)(F)F)OC | C5H5F3N4O
